US04772600
N,N-Dimethyl-2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A solution of 2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0183 mole) and 1,1'-carbonyldiimidazole (2.97 g, 0.0183 mole) in tetrahydrofuran (100 ml) was stirred at room temperature for 33/4 hours with a stream of nitrogen bubbling through it. A solution of dimethylamine (48 ml of a 2.29M solution in tetrahydrofuran, 0.1098 mole) was added and the mixture was heated at 40° C. overnight under nitrogen. The solvents were removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The layers were separated and the aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed twice with a saturated sodium chloride solution, twice with a 5% potassium hydroxide solution and twice again with a saturated sodium chloride solution. The organic layer was dried over magnesium sulfate, treated with charcoal, filtered and evaporated under reduced pressure to give a residue which was dissolved in hot isopropyl alcohol and brought to the cloud point by addition of isopropyl ether. Upon cooling to room temperature, a solid precipitated which was collected by filtration, rinsed with isopropyl ether, and dried under high vacuum at room temperature to give 1.13 g of title compound (20%), mp 193°-197° C.

reactant | 2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0183 mole, 5.0 g | CC1=CC=C(S1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C13H11N3O2S
reactant | 1,1'-carbonyldiimidazole | 0.0183 mole, 2.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | N,N-Dimethyl-2-(5-methyl-2-thienyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.13 g, 20% | CN(C(CN1C(=NC=2C1=NC=CC2)C=2SC(=CC2)C)=O)C | C15H16N4OS
